US04315016
n-Butyl 1-(1,2,4-triazol-1-yl)-ethyl ether (Compound 4)
Crude n-butyl 1-chloroethyl ether (Straus and Weber, Ann, 1932, 498, 124) was treated with 1,2,4-triazole (2.4 g) in acetonitrile (50 ml) to give at once a precipitate. The mixture was refluxed for 2 hours. The solvent was removed under reduced pressure. The residue was treated with water and extracted with diethyl ether. The ethereal layer was washed with water and dried over magnesium sulphate, and the solvent was removed to give the title product as a colourless oil, which was shown by GLC to be 95% pure.

reactant | n-butyl 1-chloroethyl ether | ClC(C)OCCCC | C6H13ClO
reactant | 1,2,4-triazole | 2.4 g | N1N=CN=C1 | C2H3N3
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | n-Butyl 1-(1,2,4-triazol-1-yl)-ethyl ether | N1(N=CN=C1)C(C)OCCCC | C8H15N3O
